* Phase 5: FINAL Two-Stage Op-Amp DC Operating Point (Tuned Sizing)
.include tsmc018.lib

V1 VDD 0 1.8V
V2 Vinp 0 1.2V
V3 Vinn 0 1.2V
Iref VDD Vbias 20u

Mbias Vbias Vbias 0 0 CMOSN L=0.36u W=1.44u
M0 Vtail Vbias 0 0 CMOSN L=0.5u W=10u
M1 Vout1 Vinn Vtail 0 CMOSN L=0.5u W=11u
M2 Vout_stage1 Vinp Vtail 0 CMOSN L=0.5u W=11u
M3 Vout1 Vout1 VDD VDD CMOSP L=0.5u W=25u
M4 Vout_stage1 Vout1 VDD VDD CMOSP L=0.5u W=25u
M11 out Vout_stage1 VDD VDD CMOSP L=0.5u W=78.5u
M12 out Vbias 0 0 CMOSN L=0.5u W=15.7u
Rc Vout_stage1 net_cc 750
Cc net_cc out 1.9p
CL out 0 2p

.op
.end
